US07820693B2
Sodium hydride (35 mg, 0.872 mmol) and benzyl bromide (52 μl, 0.436 mmol) were added to 5 mL of a solution of commercially available decaethylene glycol (200 mg, 0.436 mmol) in THF, and the mixture was stirred at room temperature for 16 hours. Aqueous saturated ammonium chloride was added to the mixture, followed by extraction with ethyl acetate. The extract was washed with saturated saline and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 168 mg of crude decaethylene glycol monobenzyl ether as a colorless oil.

reactant | Sodium hydride | 0.872 mmol, 35 mg | [H-].[Na+]
reactant | benzyl bromide | 0.436 mmol, 52 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | decaethylene glycol | 0.436 mmol, 200 mg | C(COCCOCCOCCOCCOCCOCCOCCOCCOCCO)O | C20H42O11
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | decaethylene glycol monobenzyl ether | 168 mg | C(C1=CC=CC=C1)OCCOCCOCCOCCOCCOCCOCCOCCOCCOCCO | C27H48O11
